US05459138
EXAMPLE 21: 3-ETHYL-4H-PYRIDO[4,3-e][1,2,4]THIADIAZINE 1,1-DIOXIDE
A mixture of 1 g of 4-aminopyridine-3-sulfonamide (Preparation 2) and 10 cm3 of propionic anhydride is heated at 150° C. for 8 hours. After cooling, an equal volume of diethyl ether is added and the precipitate obtained is collected on a filter, washed with diethyl ether and dried. It is recrystallized from hot water.

reactant | 4-aminopyridine-3-sulfonamide | 1 g | NC1=C(C=NC=C1)S(=O)(=O)N | C5H7N3O2S
reactant | propionic anhydride | 10 cm3 | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-ETHYL-4H-PYRIDO[4,3-e][1,2,4]THIADIAZINE 1,1-DIOXIDE | C(C)C1=NS(C2=C(N1)C=CN=C2)(=O)=O | C8H9N3O2S
